US04864021
Preparation of 2'-deoxy-5-fluoro-3'-(2-methylbenzyl)uridine (R2 =R3 =H, R1 =2-methylbenzyl)
A 1.14 g quantity of potassium hydroxide was dissolved in a mixture of 33 ml of water and 16 ml of acetonitrile. To the solution were added 1.00 g of 2'-deoxy-5-fluorouridine and 1.50 g of 2-methylbenzyl bromide at room temperature with stirring. Then the same subsequent procedures as in Examples 4 and 5 were conducted, giving 0.29 g of the title compound in a yield of 20%.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2'-deoxy-5-fluorouridine | 1.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | 2-methylbenzyl bromide | 1.50 g | CC1=C(CBr)C=CC=C1 | C8H9Br
solvent | water | 33 ml | O | H2O
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
product | 2'-deoxy-5-fluoro-3'-(2-methylbenzyl)uridine | 0.29 g, yield of 20% | FC=1C(NC(N([C@H]2C[C@](O)([C@@H](CO)O2)CC2=C(C=CC=C2)C)C1)=O)=O | C17H19FN2O5
